US08865726B2
To a stirred solution of 2-amino-2-(2-bromophenyl)acetic acid (4.89 g, 21.3 mmol) in THF (50 mL) was added dropwise a solution of LiAlH4 in THF (1.0 M, 42.5 mL, 42.5 mmol) at 0° C. under N2. The reaction was allowed to warm to ambient temperature and stirred for 4 hours. The reaction mixture was cooled to 0° C. and carefully quenched by dropwise addition of water (1.7 mL) followed by 15% NaOH solution (1.7 mL) and water (5.1 mL). The mixture was stirred at ambient temperature for 15 minutes and filtered through Celite. The filtrate was concentrated to give crude 2-amino-2-(2-bromophenyl)ethanol, which was used in the next step without further purification.

reactant | 2-amino-2-(2-bromophenyl)acetic acid | 21.3 mmol, 4.89 g | NC(C(=O)O)C1=C(C=CC=C1)Br | C8H8BrNO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 42.5 mmol, 1.0 M, 42.5 mL | C1CCOC1 | C4H8O
product | 2-amino-2-(2-bromophenyl)ethanol | NC(CO)C1=C(C=CC=C1)Br | C8H10BrNO
